US09315467B2
Preparation of 3-(2-p-Tolyl-pyrimidin-4-yl)-benzoic acid (Compound 9)
Part B. A solution of 3-(2-p-tolyl-pyrimidin-4-yl)-benzonitrile (87 mg, 0.321 mmol) in ethanol (2 mL) is treated with aq. sodium hydroxide solution (1 mL, 10 N), and the resulting solution is heated to reflux until the starting material is consumed as determined by LC/MS. After being allowed to cool, the solution is evaporated and subjected to aqueous workup. The extract, which contained a mixture of amide and acid compounds, is separated by column chromatography to afford pure title compound (11 mg) as a white solid, m.p. 225-226° C. 1H NMR (300 MHz, DMSO-d6): δ 8.94 (1H, d, J=6 Hz), 8.82 (1H, s), 8.53 (1H, d, J=8 Hz), 8.39 (2H, d, J=9 Hz), 8.11 (1H, d, J=8 Hz), 8.03 (1H, d, J=6 Hz), 7.71 (1H, t, J=8 Hz), 7.37 (2H, d, J=9 Hz), 2.40 (3H, s). MS (ES+): m/e 292 (20), 291 (100). MS (ES−): m/e 290 (20), 289 (100).

reactant | 3-(2-p-tolyl-pyrimidin-4-yl)-benzonitrile | 0.321 mmol, 87 mg | C1(=CC=C(C=C1)C1=NC=CC(=N1)C=1C=C(C#N)C=CC1)C | C18H13N3
reactant | sodium hydroxide | 10 N, 1 mL | [OH-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(2-p-Tolyl-pyrimidin-4-yl)-benzoic acid | 11 mg | C1(=CC=C(C=C1)C1=NC=CC(=N1)C=1C=C(C(=O)O)C=CC1)C | C18H14N2O2
